US06869954B2
Preparation of 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(1-piperazinyl)methyl-2H-pyridazin-3-one
4-(4-tert-Butoxycarbonyl-1-piperazinyl)methyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazine-3-one (220 mg, 0.47 mmol) was dissolved in ice-cold trifluoroacetic acid (2 mL), and at the same temperature, the mixture was stirred for 15 minutes. Water (10 mL) was added to the reaction mixture. The mixture was alkalinized with potassium carbonate and extracted twice with chloroform (20 mL) The extracts were washed with brine (20 mL) and dried over anhydrous sodium sulfate. The solvent was distilled off. The residue was recrystallized from chloroform-hexane to yield the title compound as pale yellow prisms (120 mg, 69.2%).

reactant | 4-(4-tert-Butoxycarbonyl-1-piperazinyl)methyl-2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-2H-pyridazine-3-one | 0.47 mmol, 220 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC=1C(N(N=C(C1)C1=CC(=C(C=C1)OC)F)CC1CC1)=O | C25H33FN4O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | Water | 10 mL | O | H2O
product | 2-cyclopropylmethyl-6-(3-fluoro-4-methoxyphenyl)-4-(1-piperazinyl)methyl-2H-pyridazin-3-one | 120 mg, 69.2% | C1(CC1)CN1N=C(C=C(C1=O)CN1CCNCC1)C1=CC(=C(C=C1)OC)F | C20H25FN4O2
